US04647582
3-(2-Chloroethoxy)-4-ethoxy-5-chloroaniline (2.50 g) in toluene (20 ml) was dropwise added to a toluene solution containing 10 g of phosgene at 10° to 20° C. The resulting mixture was gradually heated and, after being refluxed for 30 minutes, cooled to room temperature. The solvent was removed by distillation under reduced pressure to give 3-(2-chloroethoxy)-4-ethoxy-5-chlorophenyl isocyanate. The thus obtained crude substance was added to a toluene solution (50 ml) containing triethylamine (1.0 g) and 1-butyn-3-ol (0.75 g). The resultant mixture was allowed to stand at room temperature for 12 hours, poured into ice-water and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography using a mixture of toluene and ethyl acetate as the eluent to give 1-methyl-2-propynyl N-[3-(2-chloroethoxy)-4-ethoxy-5-chlorophenyl]-carbamate (Compound No. 31) (3.27 g) in a yield of 91.6%.

reactant | 3-(2-Chloroethoxy)-4-ethoxy-5-chloroaniline | 2.50 g | ClCCOC=1C=C(N)C=C(C1OCC)Cl | C10H13Cl2NO2
reactant | phosgene | 10 g | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(2-chloroethoxy)-4-ethoxy-5-chlorophenyl isocyanate | ClCCOC=1C=C(C=C(C1OCC)Cl)N=C=O | C11H11Cl2NO3
